* Two-Stage Miller-Compensated Operational Amplifier
* Parametric design for MC-aware sizing
* Technology: 180nm, VDD=1.8V

.include ptm180nm.lib

* Parameters (will be overwritten by Python)
.param W1=10u
.param W2=10u
.param W3=20u
.param W4=20u
.param W5=15u
.param W6=40u
.param W7=20u
.param W8=5u
.param L1=0.36u
.param L2=0.36u
.param L3=0.36u
.param L4=0.36u
.param L5=0.36u
.param L6=0.36u
.param L7=0.36u
.param L8=0.72u
.param Cc=2p
.param CL=5p
.param Ib=10u

* Supply
VDD vdd 0 1.8
VSS vss 0 0

* Input signals for AC analysis
Vin_p inp 0 DC 0.9 AC 1
Vin_n inn 0 DC 0.9

* Differential pair (NMOS)
M1 d1 inp tail vss nmos W=W1 L=L1
M2 d2 inn tail vss nmos W=W2 L=L2

* PMOS current mirror load
M3 d1 d1 vdd vdd pmos W=W3 L=L3
M4 d2 d1 vdd vdd pmos W=W4 L=L4

* Tail current source
M5 tail bias vss vss nmos W=W5 L=L5

* Second stage: PMOS common-source driver
M6 out d2 vdd vdd pmos W=W6 L=L6

* Second stage: NMOS current sink
M7 out bias vss vss nmos W=W7 L=L7

* Bias network
M8 bias bias vss vss nmos W=W8 L=L8
Iref vdd bias DC Ib

* Compensation and load
Cc d2 out Cc
CL out vss CL

* Operating point and AC analysis
.op
.ac dec 10 1 10G
.print ac vdb(out) vp(out)

* Measurements for benchmark extraction
.meas ac gain max vdb(out)
.meas ac ugf when vdb(out)=0
.meas ac pm find vp(out) when vdb(out)=0


.end
